US04868301
Ethyl-3-Chloromethyl-4-oxo-3-H-phthalazin-1-ylacetate
A solution of ethyl-3-hydroxymethyl-4-oxo-3-H-phthalazin-1-ylacetate (1.31 g) and methanesulfonyl chloride (0.69 g) in methylene chloride (10 ml) containing pyridine (0.8 ml) was stirred at room temperature overnight. Upon evaporation of methylene chloride and purification of the residue by chromatography on silica gel, eluting with a mixture of a chloroform and ethyl acetate (9:1), the title product was obtained (yield: 0.51 g; m.p. 99°-100° C.).

reactant | ethyl-3-hydroxymethyl-4-oxo-3-H-phthalazin-1-ylacetate | 1.31 g | C(C)OC(CC1=NN(C(C2=CC=CC=C12)=O)CO)=O | C13H14N2O4
reactant | methanesulfonyl chloride | 0.69 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 0.8 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Ethyl-3-Chloromethyl-4-oxo-3-H-phthalazin-1-ylacetate | C(C)OC(CC1=NN(C(C2=CC=CC=C12)=O)CCl)=O | C13H13ClN2O3
